US04236004
7,8-dihydro-5-hydroxy-8-(2-methoxyethyl)-7-oxo-2-phenylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
50 ml. of NaOEt (0.5 g. Na--0.021 mole) was added to 3.4 g. (0.021 mole) of ethyl malonate and stirred 10 minutes, then evaporated to dryness. DMF was added until a solution was achieved and then 3.2 g. (0.011 mole) of 1-(2-methoxyethyl)-7-phenyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione was added and this mixture refluxed 2 hours. The chilled reaction was poured into dilute HCl and the ensuing precipitate filtered off and rinsed with water. Recrystallization from ethyl acetate gave 3.5 g. of the title product--m.p. 178°-179° C.

reactant | NaOEt | 0.021 mole, 0.5 g | CC[O-].[Na+]
reactant | ethyl malonate | 0.021 mole | C(CC(=O)[O-])(=O)OCC
reactant | 1-(2-methoxyethyl)-7-phenyl-2H-pyrimido[4,5-d][1,3]oxazine-2,4(1H)-dione | 0.011 mole | COCCN1C(OC(C2=C1N=C(N=C2)C2=CC=CC=C2)=O)=O | C15H13N3O4
reactant | HCl | Cl | ClH
product | 7,8-dihydro-5-hydroxy-8-(2-methoxyethyl)-7-oxo-2-phenylpyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CCOC)O | C19H19N3O5
